US05624943
5-{2-(2-Carboxyethyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-pyridyl}-(5RS)-5-hydroxypentanoic acid
A solution of 20 mg of 5-{2-(2-carboxyethyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-pyridyl}-5-oxopentanoic acid in 0.9 ml of dioxane and 0.1 ml of water is mixed with 6.5 mg of sodium borohydride and stirred for 2 hours at room temperature. The reaction mixture is mixed with ice water, acidified with glacial acetic acid, shaken out with dichloromethane, the organic phase is dried on sodium sulfate and concentrated by evaporation. The crude product is dissolved in 0.6 ml of methanol, 0.3 ml of 2n sodium hydroxide solution is added, and the mixture is stirred for 48 hours at room temperature. The reaction mixture is concentrated by evaporation, acidified to pH 3 with 2n sulfuric acid, shaken out with ethyl acetate, the organic phase is dried on sodium sulfate and concentrated by evaporation. 15 mg of the title compound is obtained as colorless oil.

reactant | 5-{2-(2-carboxyethyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-pyridyl}-5-oxopentanoic acid | 20 mg | C(=O)(O)CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)C(CCCC(=O)O)=O | C26H31NO7
reactant | sodium borohydride | 6.5 mg | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 0.9 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.1 ml | O | H2O
product | 5-{2-(2-Carboxyethyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-pyridyl}-(5RS)-5-hydroxypentanoic acid | 15 mg | C(=O)(O)CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)C(CCCC(=O)O)O | C26H33NO7
